US05891871
Methyl 2-(2-(3,4-Methylenedioxybenzoyl)-4,5-methylenedioxyphenyl)propionate
To a mixture of methyl 2-(3,4-methylenedioxyphenyl)propionate (1 g, 4.8 mmol) in 1,2-dichloroethane (50 mL) was added piperonylic acid (1.6 g, 9.6 mmol) and P2O5 (4 g). The reaction mixture was stirred for 15 h and then poured to ice water (200 mL) and the product was extracted with EtOAc (2×100 mL). The pure product was obtained by flash chromatography (453 mg, 27%). 1H NMR (CDCl3) 7.37 (s, 1H), 7.33 (d, J=8.0, 1H), 6.95 (s, 1H), 6.83 (d, J=8.0, 1H), 6.76 (s, 1H), 6.07 (s, 2H), 6.02 (s, 2H), 3.95 (q, J=7.1, 1H), 3.58 (s, 3H), 1.45 (d, J=7.1, 3H).

reactant | methyl 2-(3,4-methylenedioxyphenyl)propionate | 4.8 mmol, 1 g | C1OC=2C=C(C=CC2O1)C(C(=O)OC)C | C11H12O4
reactant | piperonylic acid | 9.6 mmol, 1.6 g | C(C1=CC=2OCOC2C=C1)(=O)O | C8H6O4
reactant | P2O5 | 4 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | 1,2-dichloroethane | 50 mL | ClCCCl | C2H4Cl2
product | Methyl 2-(2-(3,4-Methylenedioxybenzoyl)-4,5-methylenedioxyphenyl)propionate | C1OC=2C=C(C(=O)C3=C(C=C4C(=C3)OCO4)C(C(=O)OC)C)C=CC2O1 | C19H16O7
